US07262196B2
(E)-3-Cyclopentyl-2-(6-methylsulfanylpyridin-3-yl)-N-thiazol-2-ylacrylamide
A suspension of PS-carbodiimide (1.08 g, loading 1.32 mmol g−1, 1.42 mmol), (E)-3-cyclopentyl-2-(6-methylsulfanylpyridin-3-yl)acrylic acid (Preparation 3, 125 mg, 475 μmol), and HOBt (128 mg, 949 μmol) in anhydrous DMF (8 mL) was stirred for 15 min at 20° C. Thiazol-2-ylamine (48 mg, 475 μmol) was added, then the mixture was stirred for 14 h at 20° C. LCMS indicated that the reaction had not gone to completion, so more thiazol-2-ylamine (95 mg, 950 μmol) was added. The mixture was stirred for an additional 64 h, before being filtered. The resin collected was washed with CH2Cl2, then the combined filtrate and washings were concentrated under reduced pressure. Column chromatography (2:11H-EtOAc) provided the title compound: RTA=3.85 min; m/z (ES+)=346.1 [M+H]+.

reactant | carbodiimide | 1.42 mmol, 1.08 g | N=C=N | CH2N2
reactant | (E)-3-cyclopentyl-2-(6-methylsulfanylpyridin-3-yl)acrylic acid | 475 μmol, 125 mg | C1(CCCC1)/C=C(/C(=O)O)\C=1C=NC(=CC1)SC | C14H17NO2S
reactant | HOBt | 949 μmol, 128 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | Thiazol-2-ylamine | 475 μmol, 48 mg | S1C(=NC=C1)N | C3H4N2S
reactant | thiazol-2-ylamine | 950 μmol, 95 mg | S1C(=NC=C1)N | C3H4N2S
solvent | DMF | 8 mL | CN(C)C=O | C3H7NO
product | (E)-3-Cyclopentyl-2-(6-methylsulfanylpyridin-3-yl)-N-thiazol-2-ylacrylamide | C1(CCCC1)/C=C(/C(=O)NC=1SC=CN1)\C=1C=NC(=CC1)SC | C17H19N3OS2
